US06350762B1
1) Synthesis of N-methyl-3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide
0.736 g (5.0 mmol) of methyl-(3-phenyl-2-propene-1-yl)amine, 0.386 ml (5.0 mmol) of ketene dimer and 0.07 ml (0.50 mmol) of triethylamine were heated at 70° C. under stirring in 5 ml of toluene overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture. After the extraction with ethyl acetate, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the thin-layer silica gel chromatography (ethyl acetate) to obtain the title compound.

reactant | methyl-(3-phenyl-2-propene-1-yl)amine | 5.0 mmol, 0.736 g | CNCC=CC1=CC=CC=C1 | C10H13N
reactant | ketene dimer | 5.0 mmol, 0.386 ml | C=C1CC(=O)O1 | C4H4O2
reactant | triethylamine | 0.50 mmol, 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-3-oxo-N-(3-phenyl-2-propene-1-yl)butyramide | CN(C(CC(C)=O)=O)CC=CC1=CC=CC=C1 | C14H17NO2
